Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Consulted by emergency medicine resident ___ for safety assessment for patient ___.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with
history of depressive disorder and anxiety disorder. She
presented to ___ ED after an intentional overdose on
venlafaxine, ibuprofen, and lorazepam in addition to alcohol
ingestion. 

On interview she endorses longstanding depression. She states 
she
has attempted suicide many times. She started a new medication,
venlafaxine. She states she's been on a new birth control and 
has
been crying easily lately. She states she has been dating a man
for about a year and he wanted to be polyamorous whereas she
wanted to remain monogamous. She started to think of taking 
extra
melatonin to go to sleep. He did not want to talk to her and she
just "wanted to disappear" due to feeling worthless. She started
to fantasize about being single and not having to talk to 
anyone,
which was not bad. However, she started to feel worse and
hopeless, which was intolerable. When asked if she wanted to die
she responded "yes and no" and reasoned that if she completely
wanted to die she would have turned off her phone. She texted 
her
ex-boyfriend ___, who became frightened, and called ___. She
states she feels fortunate to be alive. 

She states she has been feeling depressed since ___ grade. Over
the last month she has felt "off and on" and believed the
medication was starting to help. She states she has been
isolating lately with some anhedonia. 

___ ___ (friend): lately she's been sad for 
a
few weeks, talking about crying, reaching out to friends around
some birth control she's been using. She's very self contained
and introverted. She hasn't been isolating. ___ and ___
boyfriend have been having a difficult time. She was supposed to
go hang out with ___ last night but she cancelled because
she was sad and crying all day. ___ showed her a text message
about the overdose. Her behaviors did not seen concerning and 
the
text message about her overdose was a surprise.

 
Past Medical History:
Psychiatric history
- Diagnoses: depression and anxiety
- Hospitalizations: denies
- Current treaters and treatment: Dr. ___ in
___ sees therapist weekly ___ in ___
- Medication and ECT trials:
- Self-injury: states she attempted suicide many times but never
requiring hospitalization / ED visits
- Harm to others: denies
- Access to weapons: denies

Medical history: denies active medical problems

 
Social History:
Substance abuse history
- Alcohol: drinks twice weekly; denies blackouts
- Tobacco: rarely she will have a cigarette
- Illicits: marijuana almost daily, which she states helps her
with anxiety and focus; denies other illicits
- Caffeine: ___ cups per day

Forensic history: ___
- B/R: Born and raised in ___. Her mother passed
away from lymphoma when patient was ___ years old, father went to
prison ___ years later and has since been in and out of jail. She,
her brother, and her sister went into ___ care.
- Living situation: currently living in ___ with 4
roommates
- Employment / income: works as a ___, also identifies as a
___ (open ___)
- Supports: she describes some older cousins as parent figures
- Trauma: emotional trauma of losing her mother

 
Family History:
Family psychiatric history:
- father with substance use disorders

 
Physical Exam:
EXAM 
- Vital signs: 98.5F, HR 103, BP 108/55, RR 17, SpO2 97% RA

Neurological 
- station and gait: not assessed
- tone and strength: grossly normal
- cranial nerves: grossly symmetrical
- abnormal movements: none noted
- frontal release: not assessed

Cognition: exam limited by drowsiness
 
Mental Status
- Appearance: appears stated age, blue hair, multiple tattoos on
shoulders and chest, septum piercing, dressed in hospital gown,
adequate hygiene and grooming, appears uncomfortable, vomits 
once
during examination
- Behavior: pleasant, cooperative but intermittently falls 
asleep
during examination
- Psychomotor: normal
- Eye contact: closed eyes
- Speech: mumbled, fluent, low volume
- Mood and Affect: "better, I'm okay," drowsy / restricted
- Thought content: no thoughts of self-harm or harm towards
others, no hallucinatory or delusional content at this time
- Thought process: linear, coherent, goal directed, no LOA
- Judgment and Insight:  poor/poor 

 
Pertinent Results:
___ 10:18AM   ___ PO2-44* PCO2-42 PH-7.26* TOTAL 
CO2-20* BASE XS--7 INTUBATED-NOT INTUBA
___ 10:10AM   GLUCOSE-81 UREA N-10 CREAT-0.6 SODIUM-143 
POTASSIUM-4.4 CHLORIDE-113* TOTAL CO2-18* ANION GAP-16
___ 10:10AM   CALCIUM-7.4* PHOSPHATE-1.9* MAGNESIUM-1.7
___ 02:50AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:50AM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 02:50AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 02:50AM URINE  RBC-4* WBC-22* BACTERIA-NONE YEAST-NONE 
EPI-4
___ 01:24AM   LACTATE-1.5
___ 01:21AM   GLUCOSE-84 UREA N-8 CREAT-0.6 SODIUM-137 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-28 ANION GAP-10
___ 01:21AM   estGFR-Using this
___ 01:21AM   ALT(SGPT)-16 AST(SGOT)-16 ALK PHOS-63 TOT 
BILI-0.1
___ 01:21AM   ALBUMIN-4.1 CALCIUM-9.1 PHOSPHATE-2.9 
MAGNESIUM-2.0
___ 01:21AM   ASA-NEG ETHANOL-77* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:21AM   WBC-7.2 RBC-4.27 HGB-13.1 HCT-38.9 MCV-91 
MCH-30.7 MCHC-33.7 RDW-11.5 RDWSD-38.1
___ 01:21AM   NEUTS-40.3 ___ MONOS-7.4 EOS-6.5 
BASOS-1.3* IM ___ AbsNeut-2.90# AbsLymp-3.17 AbsMono-0.53 
AbsEos-0.47 AbsBaso-0.09*
___ 01:21AM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___. At that time the patient was not deemed to 
be at risk of harm to self/others due to improvement in mood and 
denial of suicidal or homicidal ideation, and so she was 
discharged to home.

2. PSYCHIATRIC:
#) Major depressive disorder
On initial presentation to the inpatient unit, patient endorsed 
attempted suicide by venlafaxine, lorazepam, and ibuprofen. 
Stated that she recently started venlafaxine, and additionally 
also recently started a new type of birth control that she felt 
was making her more depressed and tearful. Endorsed several 
psychosocial stressors, most predominantly difficulty in a 
romantic relationship. She endorsed depressed mood and chronic 
suicidality; however, denied any suicidal intent or plan. Was 
able to contract for safety on the unit, and stated that she 
felt fortunate to be alive.
During her admission, her venlafaxine XR dose was increased from 
225mg PO QD to 300mg PO QD to increase norepinephrine activity 
in the setting of her depressed mood and neurovegetative 
symptoms. She was kept on lorazepam 1mg PO QHS and 0.5mg PO BID 
PRN anxiety/insomnia in order to avoid initial activation that 
she described in previous venalafaxine dose escalations. She was 
engaged in individual, group, and milieu therapy. She had 
visitors from her friends, and remained pleasant and 
interactive. 
On discharge, patient endorses "better" mood, and denies any 
suicidal thought, intention, or plan. States that she believes 
she benefitted from taking time out on the unit to reflect on 
the importance of her not being with her present partner. She 
plans to return home to her job as a ___.

4. MEDICAL
#) Vaginal bleeding / birth control: Patient reports heavy 
vaginal bleeding since abortion in ___, at which point she 
states an implantable (r. arm) form of
hormonal birth control was instituted. She attributes mood 
lability to this.
-Patient to follow up with her ob/gyn to discuss other birth 
control options

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with her daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral was obtained in the ED from patient's friend, as 
above. Additionally, patient's outpatient therapist ___ 
___ (___) and psychiatrist Dr. ___ 
(___) were notified upon the patient's discharge.

#) INTERVENTIONS
- Medications: increased venlafaxine ER dose to 300mg PO QD
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: coordinated follow-up appointments 
with outpatient providers and provided referral information to 
partial programs, intensive outpatient programs, and weekly 
support groups

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based on impulsive suicide 
attempt. Their static factors noted at that time included 
history of suicide attempts, history of abuse, chronic mental 
illness, Caucasian race, age, marital status, and impulsivity. 
There were also several modifiable risk factors, including major 
mood episode, suicidal ideation, hopelessness, agitation, 
recklessness, social withdrawal, polarized thinking, and recent 
relationship loss. These modifiable risk factors were addressed 
by increasing her venlafaxine dose, encouraging her to engage 
her support system, providing individual, group, and milieu 
therapy, and providing a list of referrals to intensive 
outpatient and partial hospital programs.  Finally, the patient 
is being discharged with many protective risk factors, including 
good connection to outpatient treaters, medication adherence, 
strong social supports, and future-orientation with plan to 
return to her job as a ___. Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. Our Prognosis 
of this patient is good, due to the patient's aforementioned 
modified risk factors and protective factors.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 225 mg PO QHS 
2. LORazepam 1 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. LORazepam 1 mg PO BID:PRN anxiety 
2. Venlafaxine XR 300 mg PO QHS 
RX *venlafaxine 150 mg 2 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___